US03957769
Following the procedure of (D) but using 83.8 g. (0.30 mole) of 4-chloro-2-(phenylsulfinyl)acetophenone, 500 ml. of chloroform, 250 ml. of concentrated sulfuric acid, and 472 ml. of a 1.4 N chloroform solution of hydrazoic acid, 79.7 g. of a mixture of 4-chloro-2-(phenylsulfonimidoyl)acetanilide and 7-chloro-3-methyl-1-phenyl-1,2,4-benzothiadiazine-1-oxide is obtained. This mixture is stirred and heated under reflux conditions in 450 ml. of 10% sodium hydroxide solution for 3.5 hours. After the mixture is cooled, it is extracted with 500 ml. of chloroform, and the extract is dried and concentrated to give 68.7 g. of a viscous oil. This is extracted with 500 ml. of anhydrous ether. The extract is filtered and cooled in ice. While the extract is cooling in ice, it is treated in a dropwise manner with a slight excess (to pH 4.0) of ethereal hydrogen chloride to give 55.2 g. of product, melting point 217°-219°C after filtration and drying.

reactant | 4-chloro-2-(phenylsulfinyl)acetophenone | 0.30 mole | ClC1=CC=C(C=C1)S(=O)CC(=O)C1=CC=CC=C1 | C14H11ClO2S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | hydrazoic acid | N=[N+]=[N-] | HN3
reactant | 4-chloro-2-(phenylsulfonimidoyl)acetanilide | ClC1=CC=C(C=C1)S(=O)(=N)CC(=O)NC1=CC=CC=C1 | C14H13ClN2O2S
solvent | chloroform | 1.4 N | C(Cl)(Cl)Cl | CHCl3
product | 7-chloro-3-methyl-1-phenyl-1,2,4-benzothiadiazine-1-oxide | ClC1=CC2=C(N=C(NS2(C2=CC=CC=C2)=O)C)C=C1 | C14H13ClN2OS
